US08349824B2
A mixture of 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 0.269 mmole), cyclopentyl-methylamine (107 mg, 1.08 mmole), N-ethyldiisopropylamine (376 ul, 2.15 mmole) and 1-propanephosphonic acid cyclic anhydride (50% in ethyl acetate, 404 ul, 0.673 mmole) in tetrahydrofurane (4 ml) was stirred for 22 hours at 70° C. The solvent was evaporated, the residue was triturated with sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water and dried affording N4-cyclopentyl-N4,1-dimethyl-N5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (113 mg, 92.7%) as an off-white solid. mp.: 222-4° C., MS: m/z=453.5 (M+H+)

reactant | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 0.269 mmole, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
reactant | cyclopentyl-methylamine | 1.08 mmole, 107 mg | C1(CCCC1)NC | C6H13N
reactant | N-ethyldiisopropylamine | 2.15 mmole, 376 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.673 mmole, 404 ul | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | N4-cyclopentyl-N4,1-dimethyl-N5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 113 mg, 92.7% | C1(CCCC1)N(C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)C)C | C22H28N8O3
